US07074817B2
Ethyl 1-(4-methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indole-2-carboxylate
The title compound was prepared from ethyl 5-bromo-1-(4-methylbenzyl)-1H-indole-2-carboxylate and 4-(trifluoromethoxy)phenylboronic acid in substantially the same manner, as described in Step 2 of Example 25. The product was obtained as an off-white solid, m.p. 77-78° C. Mass spectrum (ESI, [M+H]+) m/z 454. 1H NMR (400 MHz, DMSO-d6) δ 8.00 (s, 1H), 7.78 (d, 2H, J=8.70 Hz), 7.67 (d, 1H, J=8.85 Hz), 7.61 (dd, 1H, J=8.70 and 1.68 Hz), 7.44 (s, 1H), 7.42-7.41 (m, 3H), 7.06 (d, 2H, J=7.94 Hz), 6.94 (d, 2H, J=8.09 Hz), 5.83 (s, 2H), 4.29 (q, 2H), 2.21 (s, 3H), and 1.30 ppm (t, 3H).

reactant | ethyl 5-bromo-1-(4-methylbenzyl)-1H-indole-2-carboxylate | BrC=1C=C2C=C(N(C2=CC1)CC1=CC=C(C=C1)C)C(=O)OCC | C19H18BrNO2
reactant | 4-(trifluoromethoxy)phenylboronic acid | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
product | Ethyl 1-(4-methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indole-2-carboxylate | CC1=CC=C(CN2C(=CC3=CC(=CC=C23)C2=CC=C(C=C2)OC(F)(F)F)C(=O)OCC)C=C1 | C26H22F3NO3
